US04719264
Vinyl Pyrrolidone/Vinyl Acetate Copolymer
To a suitable reactor were added 8,424 parts of vinyl acetate, 4,826 parts of ethyl acetate, 845 parts of N-vinyl-2-pyrrolidone, 725 parts of toluene, and 4.3 parts of 2,2'-azobis(isobutyronitrile). The reactants were heated to reflux (170° F.) and were held at reflux for 1 hour. A solution of 4.3 parts of 2,2'-azobis(isobutyronitrile) and 7.5 parts of ethyl acetate was then added. Heating at reflux was continued for 2 hours. Additional catalyst solution, 2 parts of catalyst and 7.5 parts of ethyl acetate, was then added. Heating was then continued at reflux to complete the polymerization reaction, i.e., until the solids content reached about 56 percent. The temperature was then lowered and 2,246 parts of a diethylene glycol-adipic acid copolymer having a Gardner-Holdt viscosity of Z1 to Z4 were added along with 1,404 parts of toluene. After stirring for 1 hour, an additional 1,900 parts of toluene were added.

reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | 2,2'-azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | diethylene glycol adipic acid | C(COCCO)O.C(CCCCC(=O)O)(=O)O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Vinyl Pyrrolidone/Vinyl Acetate | C(=C)N1C(CCC1)=O.C(C)(=O)OC=C | InChI=1S/C6H9NO.C4H6O2/c1-2-7-5-3-4-6(7)8;1-3-6-4(2)5/h2H,1,3-5H2;3H,1H2,2H3
